US07491722B2
5-Acetyl-2-ethyl-6-phenyl(quinolin-8-ylamino)pyridazin-3(2H)-one
To a stirred solution of 100 mg (0.348 mmol) of 5-acetyl-2-ethyl-4-nitro-6-phenylpyridazin-3(2H)-one (pal Piaz, V et al., J. Med. Chem. 1997, 40, 1417) in 5 ml of ethanol, 75 mg (0.522 mmol) of 8-aminoquinoline was added. The resulting mixture was stirred at room temperature for two hours and the final product was collected by filtration and washed with diethylether to yield the title compound (100 mg, 74.6% yield).

reactant | 5-acetyl-2-ethyl-4-nitro-6-phenylpyridazin-3(2H)-one | 0.348 mmol, 100 mg | C(C)(=O)C1=C(C(N(N=C1C1=CC=CC=C1)CC)=O)[N+](=O)[O-] | C14H13N3O4
reactant | 8-aminoquinoline | 0.522 mmol, 75 mg | NC=1C=CC=C2C=CC=NC12 | C9H8N2
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 5-Acetyl-2-ethyl-6-phenyl(quinolin-8-ylamino)pyridazin-3(2H)-one | 100 mg, 74.6% yield | C(C)(=O)C1=C(C(N(N=C1C1=CC=CC=C1)CC)=O)NC=1C=CC=C2C=CC=NC12 | C23H20N4O2
